US04681891
1,4-Dihydro-2,6-dimethyl-3-(1,3,4-oxadiazol-2-yl)-4-(2,3-dichlorophenyl)-pyridine
20 g of 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)-5-(1,3,4-oxadiazol-2-yl)-pyridine-3-carboxylic acid in 100 ml of diethylene glycol are heated at 180° C. for 10 minutes. The mixture is then cooled to room temperature, 500 ml of water are added and the mixture is extracted by shaking with four times 200 ml of ethyl acetate. The organic phase is dried over sodium sulphate and concentrated and the residue is recrystallised from ethyl acetate with the addition of active charcoal. This gives 12.2 g (corresponding to 61% of theory) of 1,4-dihydro-2,6-dimethyl-3-(1,3,4-oxadiazol-2-yl)-4-(2,3-dichlorophenyl)-pyridine, melting point 235° C. with decomposition.

reactant | 1,4-dihydro-2,6-dimethyl-4-(2,3-dichlorophenyl)-5-(1,3,4-oxadiazol-2-yl)-pyridine-3-carboxylic acid | 20 g | CC=1NC(=C(C(C1C(=O)O)C1=C(C(=CC=C1)Cl)Cl)C=1OC=NN1)C | C16H13Cl2N3O3
reactant | water | 500 ml | O | H2O
solvent | diethylene glycol | 100 ml | C(COCCO)O | C4H10O3
product | 1,4-Dihydro-2,6-dimethyl-3-(1,3,4-oxadiazol-2-yl)-4-(2,3-dichlorophenyl)-pyridine | CC=1NC(=CC(C1C=1OC=NN1)C1=C(C(=CC=C1)Cl)Cl)C | C15H13Cl2N3O
